US06207662B1
(±)2-[(2-methoxyphenoxy)methyl]-4-(4-trifluoromethylbenzyl)morpholine oxalic acid salt.
The crude 2-[(2-methoxyphenoxy)methyl]morpholine (2.0 g, 9.0 mmol) was mixed with 4-trifluoromethylbenzylbromide (2.58 g, 10.8 mmol), potassium carbonate (6.84 g, 49.5 mmol) in ethanol (50 ml) and refluxed for 3.5 h. Water was added and the product was extracted with 2 portions of ethyl acetate. Drying and evaporation gave the crude free base. Dissolution in ether and precipitation with oxalic acid gave a salt that was purified by recrystallization from ethanol and then THF. Yield 430 mg, 10%, mp 101-108° C.

reactant | 2-[(2-methoxyphenoxy)methyl]morpholine | 9.0 mmol, 2.0 g | COC1=C(OCC2CNCCO2)C=CC=C1 | C12H17NO3
reactant | 4-trifluoromethylbenzylbromide | 10.8 mmol, 2.58 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | potassium carbonate | 49.5 mmol, 6.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | (±)2-[(2-methoxyphenoxy)methyl]-4-(4-trifluoromethylbenzyl)morpholine oxalic acid salt | C(C(=O)O)(=O)O.COC1=C(OCC2CN(CCO2)CC2=CC=C(C=C2)C(F)(F)F)C=CC=C1 | InChI=1S/C20H22F3NO3.C2H2O4/c1-25-18-4-2-3-5-19(18)27-14-17-13-24(10-11-26-17)12-15-6-8-16(9-7-15)20(21,22)23;3-1(4)2(5)6/h2-9,17H,10-14H2,1H3;(H,3,4)(H,5,6)
